US03965190
103 g. (0.544 mol) of stannous chloride and 400 ml of diethyl ether are introduced into a one litre three-necked flask equipped with a condenser, a mechanical stirrer and a gas bubbler tube. This mixture is cooled and saturated with hydrogen chloride gas until the stannous chloride is completely dissolved. A solution of 72.7g. (0.388 mol) of 3-trifluoromethoxy-benzonitrile in 75 ml. of anhydrous diethyl ether is added dropwise but fastly via the dropping funnel, while the mixture is cooled with ice-water. The mixture is allowed overnight, then the aldehyde is steam distilled. The distillate is extracted several times with diethyl ether and the extracts are combined. 250 ml. of a solution of sodium bisulphite (d=1.32-1.33) are added to the extracts and allowed overnight. The bisulfite compound is filtered off, washed with a small quantity of ice-water and then with diethyl ether. The compound is introduced into a one litre flask which contains solution of 60 g. of potassium carbonate in 250 ml. of water. The mixture is heated at 100°C so as to decompose the bisulfite compound and to steam distil the aldehyde as it is formed. The distillate is extracted several times with diethyl ether. The combined ether phases are dried over sodium sulphate and filtered and the solvent is evaporated. 32g. (44% yield) of 3-trifluoromethoxy-benzaldehyde are obtained as a colourless oil.

reactant | hydrogen chloride | Cl | ClH
reactant | 3-trifluoromethoxy-benzonitrile | 0.388 mol | FC(OC=1C=C(C#N)C=CC1)(F)F | C8H4F3NO
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | diethyl ether | 400 ml | C(C)OCC | C4H10O
product | 3-trifluoromethoxy-benzaldehyde | 44% yield | FC(OC=1C=C(C=O)C=CC1)(F)F | C8H5F3O2
